US08119666B2
F. N-Sulfamoyl-N-(2-benzyloxy-4-phenoxyphenyl)glycine methyl ester
A solution of N-(t-butoxycarbonylsulfamoyl)-N-(2-benzyloxy-4-phenoxyphenyl)glycine methyl ester (0.375 g, 0.69 mmol) in 6 mL TFA/DCM (1:1) is stirred at ambient temperature for 20 min. The solvent is removed under reduced pressure. Methylene chloride is added to the residue and removed under reduced pressure. The resulting oil is purified by flash chromatography using 10% EtOAc/DCM to elute N-sulfamoyl-N-(2-benzyloxy-4-phenoxyphenyl)glycine methyl ester as an oil: 1H NMR (CDCl3) δ 7.44 (d, J=8.59 Hz, 1H), 7.33-7.26 (m, 7H), 7.09 (t, 1H), 6.97-6.93 (m, 2H), 6.60 (d, J=2.52 Hz, 1H), 6.43 (dd, J=8.59, 2.53 Hz, 1H), 4.96 (s, 2H), 4.26 (s, 2H), 3.62 (s, 3H); MS (M−H)−=441.

reactant | N-(t-butoxycarbonylsulfamoyl)-N-(2-benzyloxy-4-phenoxyphenyl)glycine methyl ester | 0.69 mmol, 0.375 g | COC(CN(C1=C(C=C(C=C1)OC1=CC=CC=C1)OCC1=CC=CC=C1)S(NC(=O)OC(C)(C)C)(=O)=O)=O | C27H30N2O8S
solvent | TFA DCM | 6 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N-Sulfamoyl-N-(2-benzyloxy-4-phenoxyphenyl)glycine methyl ester | COC(CN(C1=C(C=C(C=C1)OC1=CC=CC=C1)OCC1=CC=CC=C1)S(N)(=O)=O)=O | C22H22N2O6S
